US08022062B2
6-Cyano-3-phenylbenzothiophene:
Combine 6-bromo-3-phenylbenzothiophene (0.5 g, 1.73 mmol) and copper cyanide (0.56 g, 6.23 mmol) and reflux 3 h in 1-methyl-2-pyrrolidinone (1.73 mL). Add ferric chloride (2.11 g, 7.79 mmol) in concentrated HCl (1.73 mL) and stir 1.5 h. Cool the mixture and partition between diethyl ether and brine. Dry the organic layer over Na2SO4, filter and evaporate onto silica gel. Purify the residue by chromatography on silica gel eluting with hexane/EtOAc (1:0 to 3:2 gradient) to give the desired intermediate that is used without further-purification (0.27 g, 67%). MS (GCMS) m/z: 235 M+.

reactant | 6-bromo-3-phenylbenzothiophene | 1.73 mmol, 0.5 g | BrC1=CC2=C(C(=CS2)C2=CC=CC=C2)C=C1 | C14H9BrS
reactant | copper cyanide | 6.23 mmol, 0.56 g | [Cu](C#N)C#N
solvent | 1-methyl-2-pyrrolidinone | 1.73 mL | CN1C(CCC1)=O | C5H9NO
solvent | HCl | 1.73 mL | Cl | ClH
product | 6-Cyano-3-phenylbenzothiophene | C(#N)C1=CC2=C(C(=CS2)C2=CC=CC=C2)C=C1 | C15H9NS
